US05219856
PART C: Preparation of 5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]methyl-2-propyl-1-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]imidazole
5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]methyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole (1.72 g, 2.10 mmol), obtained from Part B of Example 101, was stirred in 75 mL methanol at reflux for 2 hours. After evaporation of solvent under reduced pressure, the residue was stirred in 30 mL of 1:1 methanol/5% aqueous NaHCO3 for 6 h. The reaction mixture was extracted with 4×50 mL ethyl ether, and the residual organic solvent in the aqueous layer was evaporated under reduced pressure. The product was precipitated by adjusting the pH to 5 with aqueous HCl. The title compound (1.02 g, 84.2%) was collected as a white powder after filtering and drying in vacuo at 60° C. 1H NMR (300 MHz, CDCl3): δ0.86 (t, J=7.3 Hz, 3H); 1.61 (m, 2H); 2.54 (t, J=7.7 Hz, 2H); 2.76 (br s, 4H, piperazine); 3.54 (br s, 4H, piperazine); 3.63 (s, 3H); 3.88 (s, 2H); 5.27 (s, 2H); 6.57-8.13 (m, 12H).

reactant | 5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]methyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole | 2.10 mmol, 1.72 g | COC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)CN1CCN(CC1)C1=NC=CC=C1 | C51H49N9O2
solvent | methanol | 75 mL | CO | CH4O
product | 5-Methoxycarbonyl-4-[4-(2-pyridyl)-piperazin-1-yl]methyl-2-propyl-1-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]imidazole | COC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC)CN1CCN(CC1)C1=NC=CC=C1 | C32H35N9O2
